US04139703
7-[[(1H-Indol-1-yl)acetyl]amino]-3-chloro-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
(1H-Indol-1-yl)acetic acid (0.05 m) is added to tetrahydrofuran. The temperature is lowered to about -10° C. and 1 equivalent of isobutylchloroformate in tetrahydrofuran is added. This mixture is stirred for about 30 minutes. A solution of 7-amino-3-chloro-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid in 1:1 tetrahydrofuran/water containing 1 equivalent of triethylamine is added to the previously formed solution maintained at -10° C. The resulting solution is stirred for about 60 minutes at -10° C. to 0° C. and then stirred for 60 minutes at 30° C. to 30° C. The solvents are removed at reduced pressure to give a residue which is extracted with ethyl acetate. The ethyl acetate is dried over magnesium sulfate, filtered and evaporated to give the title compound.

reactant | (1H-Indol-1-yl)acetic acid | N1(C=CC2=CC=CC=C12)CC(=O)O | C10H9NO2
reactant | isobutylchloroformate | 1 equivalent | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 7-amino-3-chloro-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC1C2SCC(=C(N2C1=O)C(=O)O)Cl | C7H7ClN2O3S
reactant | tetrahydrofuran water | 1 equivalent | O1CCCC1.O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 7-[[(1H-Indol-1-yl)acetyl]amino]-3-chloro-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | N1(C=CC2=CC=CC=C12)CC(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)Cl | C17H14ClN3O4S
